US08017809B2
Bis(4,4′-(phenyl-2-benzyl-2-amino-ethoxyboryl)benzyl) ether
The entitled compound (9 mg) was obtained by allowing 41 mg of bis(4,4′-(phenylhydroxyboryl)benzyl) ether and 10 mg of 2-amino-3-phenylpropanol to act in 1 mL of ethanol.

reactant | bis(4,4′-(phenylhydroxyboryl)benzyl) ether | 41 mg | C1(=CC=CC=C1)B(O)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(O)C1=CC=CC=C1 | C26H24B2O3
reactant | 2-amino-3-phenylpropanol | 10 mg | NC(CO)CC1=CC=CC=C1 | C9H13NO
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | Bis(4,4′-(phenyl-2-benzyl-2-amino-ethoxyboryl)benzyl) ether | C1(=CC=CC=C1)B(OCC(N)CC1=CC=CC=C1)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(OCC(N)CC1=CC=CC=C1)C1=CC=CC=C1 | C44H46B2N2O3
